US05356904
7-Fluoro-1-(4-piperidinyl)-3,4-dihydrocarbostyril (2.37 g), 2-methoxy-4-ethoxybenzoic acid (2.43 g) and bis(2-oxo-oxazolydinyl)phosphinyl chloride (3.65 g) are dissolved in dichloromethane (50 ml) and thereto is added dropwise triethylamine (4 ml). The mixture is stirred at room temperature overnight and poured into water. The mixture is extracted with dichloromethane, dried with sodium carbonate and then purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=1:1). The resultant is recrystallized from ethanol/water to give 7-fluoro-1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (2.5 g) as white powder, m.p. 159°-161° C.

reactant | 7-Fluoro-1-(4-piperidinyl)-3,4-dihydrocarbostyril | 2.37 g | FC1=CC=C2CCC(N(C2=C1)C1CCNCC1)=O | C14H17FN2O
reactant | 2-methoxy-4-ethoxybenzoic acid | 2.43 g | COC1=C(C(=O)O)C=CC(=C1)OCC | C10H12O4
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-fluoro-1-[1-(2-methoxy-4-ethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 2.5 g | FC1=CC=C2CCC(N(C2=C1)C1CCN(CC1)C(C1=C(C=C(C=C1)OCC)OC)=O)=O | C24H27FN2O4
